US04584293
2-Amino-5-methoxy-1,2,3,4-tetrahydronaphthalene
First, 5-methoxy-1,2,3,4-tetrahydronaphthalen-2-one (17.6 g, 0.1 mol) is dissolved in methanol (800 ml) and 1,2-dichloroethane (200 ml), then it is mixed with ammonium acetate (77 g) and sodium cyanoborohydride (5.4 g) and stirred for 2 days at laboratory temperature. The reaction mixture is adjusted to pH 2 with concentrated hydrochloric acid and the solvent is distilled off in vacuo. The residue is dissolved in ethyl acetate/water. The aqueous phase is separated off, made alkaline with 50% sodium hydroxide solution with cooling and extracted twice with methylene chloride. The extract is dried, treated with Fuller's earth/activated charcoal and concentrated by evaporation. The residue is dissolved in acetone and the hydrochloride is precipitated with ethereal hydrochloric acid. Yield: 2 g. Mp: 260°-262° C. (decomp.).

reactant | 5-methoxy-1,2,3,4-tetrahydronaphthalen-2-one | 0.1 mol, 17.6 g | COC1=C2CCC(CC2=CC=C1)=O | C11H12O2
reactant | ammonium acetate | 77 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 5.4 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 800 ml | CO | CH4O
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 2-Amino-5-methoxy-1,2,3,4-tetrahydronaphthalene | NC1CC2=CC=CC(=C2CC1)OC | C11H15NO
